US06462032B1
To a solution of 5-bromoisatin (2.5 g, 11 mmol) in dry THF (100 cm3) at −10° C. under a nitrogen atmosphere was added 1-propynylmagnesium bromide (0.5 M in THF, 47 cm3, 23.5 mmol). After 1 h, the mixture was poured into saturated ammonium chloride and extracted with EtOAc (×3), washed with brine, dried (MgSO4) and evaporated to afford 5-bromo-3-hydroxy-3-prop-1-ynyl-1,3-dihydroindol-2-one (2.83 g, 10.6 mmol, 97%) which was used without further purification: (CDCl3) δ 1.83 (s, 3H), 6.79 (d, 1H, J=8.0 Hz), 6.90 (s, 1H), 7.41-7.44 (m, 2H), 10.59 (s, 1H); MS ((−) ESI) m/z 264 (M−H)−.

reactant | 5-bromoisatin | 11 mmol, 2.5 g | BrC=1C=C2C(C(NC2=CC1)=O)=O | C8H4BrNO2
reactant | 1-propynylmagnesium bromide | 23.5 mmol, 0.5 M, 47 cm3 | C(#CC)[Mg]Br
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | 100 cm3 | C1CCOC1 | C4H8O
product | 5-bromo-3-hydroxy-3-prop-1-ynyl-1,3-dihydroindol-2-one | 10.6 mmol, 2.83 g, 97% | BrC=1C=C2C(C(NC2=CC1)=O)(C#CC)O | C11H8BrNO2
